US06140332
Step 8.2: 6-(Biphen-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol
766 mg (2.5 mmol) of 2-amino-3-ethoxycarbonyl-5-(biphen-4-yl)-1H-pyrrole are stirred in 5 ml of formamide, 2.5 ml of DMF and 1.25 ml of formic acid for 20 h at 150° C. The reaction mixture is diluted with isopropanol and filtered. Washing with isopropanol and hexane yields the title compound; m.p.>300° C.; FAB-MS: (M+H)+ =288.

reactant | 2-amino-3-ethoxycarbonyl-5-(biphen-4-yl)-1H-pyrrole | 2.5 mmol, 766 mg | NC=1NC(=CC1C(=O)OCC)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H18N2O2
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
reactant | formic acid | 1.25 ml | C(=O)O | CH2O2
solvent | formamide | 5 ml | C(=O)N | CH3NO
solvent | isopropanol | C(C)(C)O | C3H8O
product | 6-(Biphen-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol | C1(=CC=C(C=C1)C1=CC=CC=C1)C1=CC2=C(N=CN=C2O)N1 | C18H13N3O
